US05198451
A solution of 3-(3,3-bis(2-methylphenyl)-2-propen-1-yloxy)-1-propanol (3.45 g, 11.6 mmol) in dry toluene (150 ml) was cooled in an ice-bath and a solution of n-butyllithium in hexanes (5.1 ml, 2.5 M) was added dropwise. The reaction mixture was stirred for 15 minutes at room temperature and p-toluenesulphonyl chloride (2.44 g, 12.8 mmol) was added. The mixture was stirred at room temperature for 3 h. Ethyl (R)-3-piperidinecarboxylate (4.5 g, 23.3 mmol) and potassium carbonate (3.2 g, 23.3 mmol) were added and the mixture was stirred at room temperature for 0.5 h and then at 75° C. for 12 h. Potassium iodide (1.0 g) and acetone (40 ml) were added and the mixture was heated at reflux temperature for 15 h. Acetone (50 ml) was added and the cooled reaction mixture was filtered and the solvent evaporated in vacuo. Flash chromatography of the residue on silica gel (280 g) using a gradient of n-heptane in ethyl acetate as eluent afforded 2.6 g (52%) of (R)-N-(3-(3,3-bis(2-methylphenyl)-2-propen-1-yloxy)-1-propyl)3-piperidinecarboxylic acid ethyl ester as an oil. TLC: rf=0.52 (SiO2 ; methanol/ethyl acetate=1:9).

reactant | 3-(3,3-bis(2-methylphenyl)-2-propen-1-yloxy)-1-propanol | 11.6 mmol, 3.45 g | CC1=C(C=CC=C1)C(=CCOCCCO)C1=C(C=CC=C1)C | C20H24O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-toluenesulphonyl chloride | 12.8 mmol, 2.44 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ethyl (R)-3-piperidinecarboxylate | 23.3 mmol, 4.5 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 23.3 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | Potassium iodide | 1.0 g | [I-].[K+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | Acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (R)-N-(3-(3,3-bis(2-methylphenyl)-2-propen-1-yloxy)-1-propyl)3-piperidinecarboxylic acid ethyl ester | 2.6 g, 52% | C(C)OC(=O)[C@H]1CN(CCC1)CCCOCC=C(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C28H37NO3
